US07282501B2
Step B: 2-{2-(Ethoxycarbonylamino-methyl)-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid
General Parallel Synthesis Procedure: 2-{2-Aminomethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid ethyl ester: trifluoroacetic acid salt (381 mg, 0.650 mmol max.) was dissolved in CH2Cl2 (25 mL) and washed with saturated NaHCO3 solution (15 mL). The organic layer was dried (NaSO4), filtered, and concentrated to 2-{2-aminomethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid ethyl ester (245 mg, 0.59 mmol, 86%). A portion of this free base (13 mg, 0.030 mmol) in CH2Cl2 (0.8 mL) was treated with triethylamine (0.050 mL, 0.36 mmol) then ethyl chloroformate (0.020 mL, 0.21 mmol). The reaction mixture was shaken overnight and dimethylethylenediamine (0.050 mL, 0.47 mmol) was added. The reaction mixture was shaken for 2 h, diluted with MeOH (0.5 mL), and passed through an SCX column (1 g, equilibrated with 4 mL MeOH/CH2Cl2 1/1). The methyl ester-amide product was eluted with MeOH/CH2Cl2 (1:1, 8 mL) and concentrated. The residue was dissolved in THF (1 mL) and EtOH (1 mL) and treated with 2N NaOH (0.5 mL). The solution was heated at 45° C. for 45 min, cooled, concentrated, and acidified with 1N HCl (2.5 mL). The mixture was diluted with diluted with CH2Cl2 (0.5 mL), transferred to a 3-mL ChemElute cartridge, and eluted with CH2Cl2 (8 mL). The solvent was removed under a stream of N2. The crude product was dried under vacuum and purified by mass-directed HPLC to give a foam (2.7 mg, 19%). %). MS (ES+) m/z 483.5 [M+H]+.

reactant | 2-{2-Aminomethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CN)=O | C25H30N2O5
reactant | trifluoroacetic acid | 0.650 mmol, 381 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-{2-aminomethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid ethyl ester | 0.59 mmol, 245 mg | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CN)=O | C25H30N2O5
reactant | triethylamine | 0.36 mmol, 0.050 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.21 mmol, 0.020 mL | ClC(=O)OCC | C3H5ClO2
reactant | dimethylethylenediamine | 0.47 mmol, 0.050 mL | CNCCNC | C4H12N2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.8 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 0.5 mL | CO | CH4O
solvent | CH2Cl2 MeOH | 4 mL | C(Cl)Cl.CO
product | 2-{2-(Ethoxycarbonylamino-methyl)-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenoxy}-2-methyl-propionic acid | 2.7 mg, 19% | C(C)OC(=O)NCC1=C(OC(C(=O)O)(C)C)C=CC(=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C26H30N2O7
